US08067445B2
Step 1: (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid
To 3-fluoro-5-(trifluoromethyl)phenylacetic acid (2.0 g, 9.0 mmol) and benzyl alcohol (1.9 mL, 18.0 mmol) in NMP (10 mL) was added sodium hydride (60% in mineral oil; 0.8 g, 19.8 mmol), and the reaction was stirred at 120° C. for 3 hours. The mixture was acidified and extracted with EtOAc, and the crude material was purified by silica gel chromatography to give the title compound.

reactant | 3-fluoro-5-(trifluoromethyl)phenylacetic acid | 9.0 mmol, 2.0 g | FC=1C=C(C=C(C1)C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | benzyl alcohol | 18.0 mmol, 1.9 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 19.8 mmol, 0.8 g | [H-].[Na+]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)CC(=O)O | C16H13F3O3
